US06596746B1
B. 2-tert-Butoxycarbonyloxyamino-4-methyl-thiazole-5-carboxylic Acid
A stirred solution of ethyl-2-tert-butoxycarbonyloxyamino-4-methyl-thiazole-5-carboxylate (10 g, 34.95 mmol) in tetrahydrofuran-ethanol (250 mL, 2:3) was treated with a 6N KOH solution (250 mL). The mixture was heated to 55° C. overnight. The solution was cooled to 0° C. and acidified with concd. HCl to pH 1. The solvent was evaporated in vacuo. The residue was washed with water, diethyl ether, dried in vacuo over anhydrous phosphorous pentoxide to obtain the title acid (6 g, 89%) as a white solid.

reactant | ethyl-2-tert-butoxycarbonyloxyamino-4-methyl-thiazole-5-carboxylate | 34.95 mmol, 10 g | C(C)OC(=O)C1=C(N=C(S1)NOC(=O)OC(C)(C)C)C | C12H18N2O5S
reactant | KOH | 6N, 250 mL | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran-ethanol | 250 mL | O1C(CCC1)CCO | C6H12O2
product | 2-tert-Butoxycarbonyloxyamino-4-methyl-thiazole-5-carboxylic Acid | C(C)(C)(C)OC(=O)ONC=1SC(=C(N1)C)C(=O)O | C10H14N2O5S
